US06437147B1
4-(4-Chlorophenyl)-N-((4,5,6,7-tetrahydro-1H-benzimidazol-5-yl)methyl)butyramide
A solution of a mixture of 4-(4-chlorophenyl)-N-((1-triphenylmethyl-4,5,6,7-tetrahydro-1H-benzimidazol-5-yl)methyl)butyramide and 4-(4-chlorophenyl)-N-((3-triphenylmethyl-4,5,6,7-tetrahydro-3H-benzimidazol-5-yl)methyl)butyramide (0.43 g, 0.72 mmol) in acetic acid (5 ml) and water (0.6 ml) was heated to 90° C. for 2 hours. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (40 g), using DCM/methanol/25% aqueous ammonia (100:10:1) as eluent, to give 0.21 g of the title compound.

reactant | 4-(4-chlorophenyl)-N-((1-triphenylmethyl-4,5,6,7-tetrahydro-1H-benzimidazol-5-yl)methyl)butyramide | ClC1=CC=C(C=C1)CCCC(=O)NCC1CC2=C(N(C=N2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)CC1 | C37H36ClN3O
reactant | 4-(4-chlorophenyl)-N-((3-triphenylmethyl-4,5,6,7-tetrahydro-3H-benzimidazol-5-yl)methyl)butyramide | 0.72 mmol, 0.43 g | ClC1=CC=C(C=C1)CCCC(=O)NCC1CC2=C(N=CN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)CC1 | C37H36ClN3O
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | water | 0.6 ml | O | H2O
product | 4-(4-Chlorophenyl)-N-((4,5,6,7-tetrahydro-1H-benzimidazol-5-yl)methyl)butyramide | 0.21 g | ClC1=CC=C(C=C1)CCCC(=O)NCC1CC2=C(NC=N2)CC1 | C18H22ClN3O
